US06093737
Step 3: 1-(3-chloro-phenyl)-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde
To a solution of 4-hydroxymethyl-1-(3-chlorophenyl)-1H-pyridin-2-one (2.39 g, 10.14 mmol) in CH2Cl2 (250 ml) was added MnO2 (4.41 g, 50.71 mmol) and stirred for 18 hours. The suspension was filtered through celite and the pad washed with additional CH2Cl2 (200 ml). The combined filtrates were evaporated in vacuo and chromatographed (silica gel, 5-20% EtOAc: CH2Cl2 gradient elution) to afford the title compound.

reactant | 4-hydroxymethyl-1-(3-chlorophenyl)-1H-pyridin-2-one | 10.14 mmol, 2.39 g | OCC1=CC(N(C=C1)C1=CC(=CC=C1)Cl)=O | C12H10ClNO2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 50.71 mmol, 4.41 g | O=[Mn]=O
product | 1-(3-chloro-phenyl)-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde | ClC=1C=C(C=CC1)N1C(C=C(C=C1)C=O)=O | C12H8ClNO2
